US05907038
56 mg (3R,4R)-3-[4-(4-Fluoro-benzoyloxy)-benzoylamino]-4-(4-hydroxy-benzoyloxy)-azepane-1-carboxylic acid tert-butyl ester was dissolved in 2 ml dimethoxyethane and 2 ml isopropanol (i-Pr-OH); after cooling to 0° C. the solution was slowly saturated with HCl-gas and stored in a refrigerator for 24 h. The solvent was completely removed in vacuo; the product was triturated with diethylether; the resulting suspension was stirred for several hours. The solvent was decanted and stirring was continued overnight after addition of another portion of fresh solvent. The product was filtered, washed with several portions of diethylether and dried in vacuo (0.1 mbar) at 50° C. 40 mg (85% yield) 4-Hydroxy-benzoic acid (3R,4R)-3-[4-(4-fluoro-benzoyloxy)-benzoylamino]-azepan-4-yl ester hydrochloride (1:1) was obtained as a yellow powder

reactant | (3R,4R)-3-[4-(4-Fluoro-benzoyloxy)-benzoylamino]-4-(4-hydroxy-benzoyloxy)-azepane-1-carboxylic acid tert-butyl ester | 56 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CCC1)OC(C1=CC=C(C=C1)O)=O)NC(C1=CC=C(C=C1)OC(C1=CC=C(C=C1)F)=O)=O | C32H33FN2O8
reactant | HCl | Cl | ClH
solvent | dimethoxyethane | 2 ml | C(OC)COC | C4H10O2
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 4-Hydroxy-benzoic acid (3R,4R)-3-[4-(4-fluoro-benzoyloxy)-benzoylamino]-azepan-4-yl ester hydrochloride | 40 mg, 85% yield | Cl.FC1=CC=C(C(=O)OC2=CC=C(C(=O)N[C@@H]3CNCCC[C@H]3OC(C3=CC=C(C=C3)O)=O)C=C2)C=C1 | InChI=1S/C27H25FN2O6.ClH/c28-20-9-3-18(4-10-20)26(33)35-22-13-7-17(8-14-22)25(32)30-23-16-29-15-1-2-24(23)36-27(34)19-5-11-21(31)12-6-19;/h3-14,23-24,29,31H,1-2,15-16H2,(H,30,32);1H/t23-,24-;/m1./s1
